US07365085B2
(2-Chloro-3-trifluoromethyl-benzyl)-(2,2-diphenylethyl)-{3-[3-(1,2,4-triazol-3-ylmethyl)-phenoxy]-propyl)amine hydrochloride salt
To a stirring solution of (2-chloro-3-trifluoromethyl-benzyl)-(2,2-diphenyl-ethyl)-{3-[3-(ethoxymethyl-1,2,4-triazol-3-ylmethyl)-phenoxy]-propyl)amine (mixture of regioisomers, 90 mg, 0.135 mmol) in dichloromethane (1.5 mL) was added triethylsilane (157 mg, 1.35 mmol). The reaction mixture was treated with TFA (0.5 mL) and then stirred overnight Solvent was removed and the residue was purified by preparative HPLC (YMC CombiPrep PDS, 75×30 mm, 25 mL/min, A: acetonitrile B: water, A: 60 to 100% during 10 min, UV detection at 254 nm) to give an oil. The oil was dissolved in diethyl ether and acidified with 1.0 M HCl/diethyl ether to give 40 mg (48% yield) of the title compound as a yellow oil. MS (ESI) 605.0 (M+).

reactant | (2-chloro-3-trifluoromethyl-benzyl)-(2,2-diphenyl-ethyl)-{3-[3-(ethoxymethyl-1,2,4-triazol-3-ylmethyl)-phenoxy]-propyl)amine | 0.135 mmol, 90 mg | ClC1=C(CN(CCCOC2=CC(=CC=C2)C(C2=NNC=N2)COCC)CC(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1C(F)(F)F | C37H38ClF3N4O2
reactant | triethylsilane | 1.35 mmol, 157 mg | C(C)[SiH](CC)CC | C6H16Si
reactant | TFA | 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | HCl diethyl ether | 1.0 M | Cl.C(C)OCC
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | (2-Chloro-3-trifluoromethyl-benzyl)-(2,2-diphenylethyl)-{3-[3-(1,2,4-triazol-3-ylmethyl)-phenoxy]-propyl)amine hydrochloride salt | 40 mg, 48% yield | Cl.ClC1=C(CN(CCCOC2=CC(=CC=C2)CC2=NNC=N2)CC(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1C(F)(F)F | InChI=1S/C34H32ClF3N4O.ClH/c35-33-28(15-8-17-31(33)34(36,37)38)22-42(23-30(26-11-3-1-4-12-26)27-13-5-2-6-14-27)18-9-19-43-29-16-7-10-25(20-29)21-32-39-24-40-41-32;/h1-8,10-17,20,24,30H,9,18-19,21-23H2,(H,39,40,41);1H
